US06297257B1
Synthesis of 4-Cyclopentyloxy-3-methoxy-benzaldehyde
A mixture of vanillin (10 g, 65.7 mmoles), cyclopentyl bromide (21.09 g, 196.7 mmoles), tetrabutylammonium bromide (211.8 mg, 0.675 mmoles) and K2CO3 (27.16 g, 199.48 mmoles) in tetrahydrofuran/water 8:2 (200 ml) was refluxed under nitrogen and vigorous stirring for 55 hours, then diluted with water, extracted with ethyl acetate, and the extract was washed with water, anhydrified over Na2SO4 and dried to give an oil which was purified by silica gel flash chromatography (eluent: petrolatum/ethyl acetate 9:1) and gave 14 g of the title product (yield: 97%).

reactant | vanillin | 65.7 mmoles, 10 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | cyclopentyl bromide | 196.7 mmoles, 21.09 g | C1(CCCC1)Br | C5H9Br
reactant | K2CO3 | 199.48 mmoles, 27.16 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrabutylammonium bromide | 0.675 mmoles, 211.8 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran water | 200 ml | O1CCCC1.O
solvent | water | O | H2O
product | 4-Cyclopentyloxy-3-methoxy-benzaldehyde | 14 g, yield: 97% | C1(CCCC1)OC1=C(C=C(C=O)C=C1)OC | C13H16O3
